US07820670B2
A mixture of 5-bromo-indazole, (1.80 g, 9.2 mmol) and THF (20 mL) at 0° C. was treated with sodium hydride (60% in oil, 0.4 g, 10 mmol) and stirred for 10 minutes. Then the reaction was treated with di-tert-butyl-dicarbonate (2.01 g, 9.2 mmol). The pasty mixture was diluted with THF (20 mL), warmed to room temperature and stirred for 2 hours. At this point the reaction was quenched with a saturated aqueous solution of sodium bicarbonate (100 mL) and the mixture was extracted with ethyl acetate (2×100 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to a tan oil (2.16 g). This oil was purified by chromatography using silica gel and hexane/ethyl acetate gradient to give 1-(tert-butoxycarbonyl)-5-bromo-indazole as a yellow oil (1.83 g, 67%), which was about 90% pure by 1H NMR (CDCl3) δ 8.11 (s, 1H), 8.10 and 7.61 (ABq, 1H, J=11 Hz and 2 Hz), 7.88 (dd, 1H, J=2Hz), 1.73 (s, 3H).

reactant | 5-bromo-indazole | 9.2 mmol, 1.80 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | di-tert-butyl-dicarbonate | 9.2 mmol, 2.01 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-5-bromo-indazole | 1.83 g, 67% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)Br | C12H13BrN2O2
